US08022223B2
3-(Cyclohex-2-enyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine (0.115 g, 0.400 mmol) and 4-methylbenzenesulfonohydrazide (1.12 g, 6.00 mmol) were placed in dimethoxyethane (5, mL). NaOAc (0.492 g, 6.00 mmol) was dissolved in water (2 mL) and added to the above solution and refluxed. Additional 4-methylbenzenesulfonohydrazide (1.12 g, 6.00 mmol) was added and the reaction mixture was refluxed overnight. An aqueous work up was done and the crude material was purified by silica gel chromatography to provide 3-(cyclohexyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine (0.064 g, 55.3%) after HCl salt formation. 1H NMR (d6-DMSO) δ 7.79 (d, 1H), 7.57 (d, 1H), 7.09 (m, 1H), 6.83 (s, 1H), 4.54 (m, 1H), 2.32 (s, 3H), 1.97 (m, 2H), 1.79, (m, 2H), 1.57 (m, 3H), 1.36 (m, 3H); Mass spectrum (apci) m/z=291.1 (M+H—HCl).

reactant | 3-(Cyclohex-2-enyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 0.400 mmol, 0.115 g | C1(C=CCCC1)OC=1C(=NC=CC1)NC=1SC=C(N1)C | C15H17N3OS
reactant | 4-methylbenzenesulfonohydrazide | 6.00 mmol, 1.12 g | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
reactant | NaOAc | 6.00 mmol, 0.492 g | CC(=O)[O-].[Na+]
reactant | 4-methylbenzenesulfonohydrazide | 6.00 mmol, 1.12 g | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | water | 2 mL | O | H2O
product | 3-(cyclohexyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 0.064 g, 55.3% | C1(CCCCC1)OC=1C(=NC=CC1)NC=1SC=C(N1)C | C15H19N3OS
